US07973169B2
42) N-[5-(2-Chloro-benzyl)-thiazol-2-yl]-2-methoxy-2-phenyl-acetamide
2-Bromo-N-[5-(2-chloro-benzyl)-thiazol-2-yl]-2-phenyl-acetamide (42 mg, 0.10 mmol) was dissolved in 5 mL of methanol. The reaction vessel was sealed and then subjected to microwave irradiation for 15 minutes at 125° C. The crude mixture was evaporated to dryness, dissolved in 1 mL of dimethylsulfoxide and purified by reverse-phase preparative liquid chromatography (16 mg, 0.043, 43%). ESI-MS m/z calc. 372.1, found 373.2 (M+1)+ Retention time 3.43 minutes. 1H NMR (400 MHz, CD3CN) δ 3.42 (s, 3H), 4.23 (s, 2H), 4.94 (s, 1H), 7.21-7.53 (m, 10H).

reactant | 2-Bromo-N-[5-(2-chloro-benzyl)-thiazol-2-yl]-2-phenyl-acetamide | 0.10 mmol, 42 mg | BrC(C(=O)NC=1SC(=CN1)CC1=C(C=CC=C1)Cl)C1=CC=CC=C1 | C18H14BrClN2OS
reactant | methanol | 5 mL | CO | CH4O
product | N-[5-(2-Chloro-benzyl)-thiazol-2-yl]-2-methoxy-2-phenyl-acetamide | ClC1=C(CC2=CN=C(S2)NC(C(C2=CC=CC=C2)OC)=O)C=CC=C1 | C19H17ClN2O2S
